US09255096B1
6,7,8,9-Tetrahydrothieno[3,2-c]-2,7-naphthyridine
A mixture of 5-Chloro-6,7,8,9-tetrahydrothieno[3,2-c]-2,7-naphthyridine (3.22 g, 14.33 mmol), 10% Pd on C (500 mg) and ammonium formate (8.13 g, 128.97 mmol) in EtOH (125 ml) was heated at 80° C. for 24 hours. Analytical data (TLC, MS) confirmed complete removal of chlorine to give both the title compound along with the N-formyl analog. Upon cooling, the catalyst was filtered off (celite) and the filtrate was treated with NaOH(aq.) until pH ˜14. The alkaline reaction mixture was refluxed for 33 hours, cooled, filtered and concentrated. Elution through a flash column (silica gel 60, 230-400 mesh, 9:1 EtOAc:7M NH3 in MeOH) gave the title compound as a viscous yellow oil which crystallized on standing (1.96 g, 72%).

reactant | 5-Chloro-6,7,8,9-tetrahydrothieno[3,2-c]-2,7-naphthyridine | 14.33 mmol, 3.22 g | ClC1=NC2=C(C=3CCNCC13)SC=C2 | C10H9ClN2S
reactant | ammonium formate | 128.97 mmol, 8.13 g | C(=O)[O-].[NH4+]
solvent | EtOH | 125 ml | CCO | C2H6O
catalyst | Pd | [Pd] | Pd
product | 6,7,8,9-Tetrahydrothieno[3,2-c]-2,7-naphthyridine | S1C=CC=2N=CC=3CNCCC3C21 | C10H10N2S
